US06593489B1
(3aS,6aS)-2-Oxo-3,3a,4,6a-tetrahydro-2H-cyclopentaoxazole-5-carboxylic acid methyl ester
DUB (75 ml, 0.5 mol) was added dropwise to a cooled solution (5° C.) of (3aS,5R,6S,6aS)-6-bromo-2-oxohexahydrocyclopentaoxazole-5-carboxylic acid methyl ester (110 g, 0.42 mol) in dichloromethane (400 ml). A mild exotherm was observed. After a further 15 mins reaction was complete. The reaction mixture was washed with 1 M HCl (aq) (2×150 ml), the aqueous washings back-extracted with dichlormethane (3×100 ml) and the combined organic extracts dried over magnesium sulfate. Following filtration, concentration of the organic solution gave the title compound as an off-white solid (75 g, 98%).

reactant | (3aS,5R,6S,6aS)-6-bromo-2-oxohexahydrocyclopentaoxazole-5-carboxylic acid methyl ester | 0.42 mol, 110 g | COC(=O)[C@@H]1[C@@H]([C@@H]2[C@@H](NC(O2)=O)C1)Br | C8H10BrNO4
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | (3aS,6aS)-2-Oxo-3,3a,4,6a-tetrahydro-2H-cyclopentaoxazole-5-carboxylic acid methyl ester | 75 g, 98% | COC(=O)C1=C[C@H]2[C@@H](NC(O2)=O)C1 | C8H9NO4
